US08389507B2
(3-Phenoxy-phenyl)-(R)-1-pyrrolidin-2-ylmethyl-amine
To a solution of 3-phenoxyaniline (0.3 g, 1.62 mmol) in 1,2-dichloroethane (4 ml) were added N-(tert-butoxycarbonyl)-D-prolinal (0.322 g, 1.62 mmol) and sodium triacetoxyborohydride (0.480 g, 2.26 mmol). The resulting suspension was stirred overnight at 50° C. The mixture was then cooled to room temperature, water (8 ml) was added and extracted with ethyl acetate (3×20 ml). The combined organic layers were dried with magnesium sulphate, filtered and concentrated in vacuo. The residue was purified by flash chromatography (SiO2: heptane/ethyl acetate=70:30) to yield a light yellow oil that was dissolved in dichloromethane (4 ml). Trifluoroacetic acid (1 ml) was added and the mixture was stirred for 3 h at room temperature. Aqueous sodium hydroxide solution (4N) was added until basic pH and the mixture was extracted with ethyl acetate (2 times 30 ml). The combined organic layers were dried with magnesium sulphate, filtered and concentrated in vacuo. The residue was purified by flash chromatography (column: Isolute® Flash-NH2 from Separtis; eluent: ethyl acetate) to yield a colourless oil, (0.256 g, 59%); MS (ISP): 269.1 ((M+H)+.).

reactant | 3-phenoxyaniline | 1.62 mmol, 0.3 g | O(C1=CC=CC=C1)C=1C=C(N)C=CC1 | C12H11NO
reactant | N-(tert-butoxycarbonyl)-D-prolinal | 1.62 mmol, 0.322 g | C(C)(C)(C)OC(=O)N1[C@@H](C=O)CCC1 | C10H17NO3
reactant | sodium triacetoxyborohydride | 2.26 mmol, 0.480 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | 1,2-dichloroethane | 4 ml | ClCCCl | C2H4Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | water | 8 ml | O | H2O
product | (3-Phenoxy-phenyl)-(R)-1-pyrrolidin-2-ylmethyl-amine | O(C1=CC=CC=C1)C=1C=C(C=CC1)NC[C@@H]1NCCC1 | C17H20N2O
